US04468516
2,2-Dimethyl-5-pentyl-3-thiazoline
The procedure of M. Thiel, F. Asinger, K. Schmiedel, (Liebigs Ann. Chem. 611, 121 (1958)) was employed. To a methanol solution (3 liters) containing sodium methoxide (216.7 g, 4.01 mole) at -10° C. was added hydrogen sulfide (~1 lb) until the solution was saturated. To this solution was added dropwise over a 2 hour period 2-bromoheptaldehyde (775 g, 4.01 mol). The temperature of the reaction was maintained at about -10° C. after the addition, acetone (734 g, 12.6 mole) was added over a 10 minute period and the solution was stirred for an additional 20 minutes at about -10° C. at which time ammonia was added over a period of 1.5 hours. The solution was then poured into water (4 liters) and extracted with ether (4×1 liter). The combined etheral extracts were washed with brine (1×1 liter), dried over magnesium suflate and concentrated in vacuo to afford after distillation (70°-80°/1.5 mm) 549 g (74%) of 2,2-dimethyl-5-pentyl-3-thiazoline. ;NMR (d, CDCl3) 0.6-2.2 (11H, m, CH2,CH3) 1.70 (6H, s, C(CH3)2), 4.3-4.65 (1H, m, CHS), 7.10 (1H, d, CHN).

reactant | sodium methoxide | 4.01 mole, 216.7 g | C[O-].[Na+]
reactant | hydrogen sulfide | ~1 lb | S | H2S
reactant | 2-bromoheptaldehyde | 4.01 mol, 775 g | BrC(C=O)CCCCC | C7H13BrO
reactant | acetone | 12.6 mole, 734 g | CC(=O)C | C3H6O
reactant | ammonia | N | H3N
solvent | water | 4 liters | O | H2O
solvent | methanol | 3 liters | CO | CH4O
product | 2,2-Dimethyl-5-pentyl-3-thiazoline | CC1(SC(C=N1)CCCCC)C | C10H19NS
